US09169254B2
Benzyltrimethylammonium dichloroiodate (324 mg, 0.930 mmol) was added to a mixture of 8-[2-(4-amino-2,6-dimethyl-phenyl)-ethanesulfonyl]-2-(4-methyl-cyclohexyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one dihydrochloride (530 mg, 1.03 mmol) and calcium carbonate (517 mg, 5.17 mmol) in methanol (6 mL)-dichloromethane (15 mL) at room temperature. The mixture was stirred at room temperature for 22 hours, and an aqueous sodium bicarbonate solution and ethyl acetate were then added. The organic layer and the aqueous layer were separated, and the aqueous layer was repeatedly extracted with ethyl acetate three times. The organic layers were combined and washed with saturated brine, and the insoluble matter was then filtered off through celite. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography to give 8-[2-(4-amino-3-iodo-2,6-dimethyl-phenyl)-ethanesulfonyl]-2-(4-methyl-cyclohexyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one as a pale yellow solid (337 mg, 62%).

reactant | Benzyltrimethylammonium dichloroiodate | 0.930 mmol, 324 mg | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 8-[2-(4-amino-2,6-dimethyl-phenyl)-ethanesulfonyl]-2-(4-methyl-cyclohexyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one dihydrochloride | 1.03 mmol, 530 mg | Cl.Cl.NC1=CC(=C(C(=C1)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C
reactant | calcium carbonate | 5.17 mmol, 517 mg | C([O-])([O-])=O.[Ca+2]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 6 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 8-[2-(4-amino-3-iodo-2,6-dimethyl-phenyl)-ethanesulfonyl]-2-(4-methyl-cyclohexyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 337 mg, 62% | NC1=C(C(=C(C(=C1)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C)I | C24H35IN4O3S
